2187-02-22 08:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2187-2-21**] 11:30 AM
 MULTI LUMEN - START [**2187-2-21**] 01:25 PM
 BLOOD CULTURED - At [**2187-2-22**] 01:50 AM
 ARTERIAL LINE - START [**2187-2-22**] 01:50 AM
   - LIJ placed
   - A-line placed (BP 20pts higher)
   - ID recs: cont PO vanco, IV flagyl, surgery consult, CT scan
   - Surgery consulted, rec: NPO, IVF, serial exams, antbx, hold imaging
   for now, trend lactate -> 0.9 at MN
   - KUB with interval small increase in dilated bowel, no air fluid
   levels or free air
   - Changed to levophed for BP support, given 1500ml in LR boluses
   - LENIs negative for DVT
   - Spoke with dermatology: ACEP likely B lactam, cont PO vanco and watch
   closely
   History obtained from Patient
   Allergies:
   History obtained from PatientVancomycin
   Rash;
   Cephalosporins
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2187-2-22**] 06:14 AM
   Infusions:
   Norepinephrine - 0.07 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2187-2-21**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Nutritional Support: NPO
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis
   Genitourinary: No(t) Dysuria
   Musculoskeletal: No(t) Joint pain
   Integumentary (skin): Rash
   Flowsheet Data as of  [**2187-2-22**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.3
C (95.6
   HR: 105 (95 - 119) bpm
   BP: 118/62(83) {100/43(61) - 123/63(83)} mmHg
   RR: 17 (13 - 25) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 83.7 kg (admission): 80 kg
    CVP: 4 (1 - 9)mmHg
   Total In:
                                                                  7,545 mL
                                                                  1,693 mL
   PO:
                                                                  1,760 mL
   TF:
   IVF:
                                                                  5,127 mL
                                                                  1,693 mL
   Blood products:
                                                                    658 mL
   Total out:
                                                                  3,040 mL
                                                                    960 mL
   Urine:
                                                                  2,240 mL
                                                                    960 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,505 mL
                                                                    733 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///13/
   Physical Examination
   GEN: Middle-aged man in NAD, awake, alert, oriented x3
   HEENT: EOMI, PERRL, sclera anicteric
   NECK: Supple, no jugular venous distention
   CV: tachycardic, S1, S2. No m/r/g
   CHEST: Resp were unlabored, no accessory muscle use. CTAB anteriorly,
   no wheezing
   ABD: slightly distended but soft, NT, bowel sounds positive
   EXT: 3+ peripheral edema
   Groin: scrotal swelling and erythema extending to inner thighs
   bilaterally
   SKIN: erythematous rash with areas of desquamation over torso and legs
   Labs / Radiology
   356 K/uL
   7.9 g/dL
   76 mg/dL
   1.4 mg/dL
   13 mEq/L
   3.6 mEq/L
   22 mg/dL
   120 mEq/L
   143 mEq/L
   23.8 %
   25.0 K/uL
        [image002.jpg]
                             [**2187-2-20**]  07:59 PM
                             [**2187-2-21**]  12:19 AM
                             [**2187-2-21**]  03:22 AM
                             [**2187-2-21**]  03:56 PM
                             [**2187-2-21**]  03:59 PM
                             [**2187-2-22**]  03:02 AM
   WBC
   36.2
   36.1
   31.2
   25.0
   Hct
   24.6
   20.2
   25.7
   23.8
   Plt
   [**Telephone/Fax (3) 5652**]56
   Cr
   1.6
   1.4
   1.4
   1.3
   1.4
   Glucose
   121
   263
   113
   93
   76
   Other labs: PT / PTT / INR:15.3/40.1/1.3, ALT / AST:19/19, Alk Phos / T
   Bili:356/1.7, Amylase / Lipase:170/64, Differential-Neuts:92.3 %,
   Band:0.0 %, Lymph:5.5 %, Mono:1.9 %, Eos:0.1 %, Lactic Acid:0.9 mmol/L,
   Albumin:1.9 g/dL, LDH:235 IU/L, Ca++:7.4 mg/dL, Mg++:2.4 mg/dL, PO4:5.2
   mg/dL
   Micro: [**2-20**] Stool cx: + C. diff
   Blood cx [**Date range (1) 5653**]: NGTD
   CXR
   FINDINGS: As compared to the previous radiograph from [**2187-2-20**],
   there is
   a newly placed central venous access line over the left internal
   jugular vein.
   The course of the line is unremarkable, the tip of the line projects
   over the
   mid SVC. No pneumothorax, no focal parenchymal opacity suggestive of
   pneumonia, normal heart size, no overhydration
   LENIs
   IMPRESSION: Normal deep veins in the right leg. Noncompressible left
   common
   femoral vein is most likely due to edema
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 TACHYCARDIA, OTHER
   Mr. [**Known lastname 5613**] is a 67 y.o. male w/pmh alcoholism admitted [**1-23**] with
   septic shock [**12-18**] salmonella sepsis and pancolitis with course
   complicated by ARF, hepatitis, pancolitis and desquamating drug rash,
   transferred to the ICU for tachycardia, leukocytosis and fever likely
   [**12-18**] acute clostridium difficile infection.
   .
   #C. diff septic shock: Admitted to MICU with fever, leukocytosis and
   tachycardia, requiring pressors.  Also with evidence of end organ
   ischemia.  Stool cx from [**2-20**] confirmed C. diff, has copious stool
   production.  Likely contracted from prolonged hospitalization and
   recent antiibotic use.  Abdominal exam relatively benign with no
   rebound or guarding.  Blood and urine cx NGTD.  Will require aggressive
   care and careful watching for complications.  Lactate trending down,
   WBC trending down
   - Appreciate ID recs: will cont PO vanco, IV flagyl
   - f/u blood and urine cx
   - Appreciate surgery consult: monitor lactate, cont antbx
   - Hold CT imaging for now given continued clinical improvement
   - KUB with slight worsening, though clinically unchanged -> cont to
   follow
   - IVF boluses for CVP 10-12, has high output given DI,
   -wean levophed
   - LENIs neg for DVT
   - CVL RIJ placed [**2-21**], R A line placed [**2-21**]
   .
   # Acute Renal Failure: Creatinine peaked at 5.2 during his admission
   likely [**12-18**] sepsis and hypotension and rhabdomyolysis on admission, has
   been slowly trending down, at 1.5 on transfer to ICU.  Stable through
   current Cdiff sepsis at 1.4
   -monitor Cr
   - volum resucsitation as above
   # Diabetes Insipidus: Per patient has a history of having to "drink
   lots of water" which he was told was due to 13 years of taking
   lithium.  Was significantly volume deplete in setting of DI and acitve
   volume loss from c.diff and diarrhea.  Urine osm of 204 on admission
   supports this.
   - Volume resuscitation with NS, LR
   - monitor Na closely as will be prone to hypernatremia
   - allow pt to drink water in order to replace free water losses
   .
   # Hepatitis, pancreatitis:  Thought likely [**12-18**] drug reaction, ? zosyn
   vs depakote.  Has been followed by liver service previously, with
   cholestatic picture.  LFT's and PFT's continue to slowly trend down,
   with no evidence that worsening of liver function is contributing to
   his current picture.
   - monitor LFT's, amylase, lipase
   - avoid zosyn/depakote
   .
   # Salmonella Sepsis, pancolitis on admission: Has finished course of
   treatment for salmonella sepis with resolving pancolitis per serial
   abdominal CT's.
   .
   # AGEP (acute generalized exanthematous pustulosis -> diffuse
   desquamating drug rash thought most likely [**12-18**] cephalosporins or
   vancomycin.  Resolving since these abx d/c'd [**2-4**].
   - Triamcinolone 0.1% cream daily to rash (this may help with tenderness
   and pruritus from rash
   - Spoke with dermatology: AGEP likely caused by B lactam.  Ok to cont
   PO vanco as is poorly absorbed.  Cont to watch closely
   - Stop PO vanco if rash returns
   .
   # Anemia: Has been stable in the low 20's since admission, likely [**12-18**]
   prolonged illness.  No evidence of acute blood loss.  Required
   transfusion 2 units on admission.
   - Monitor HCT  daily
   - active type and screen
   - xfuse for Hct<21
   .
   #Hx seizure disoirder: continue keppra
   .
   #Renal mass: Patient reports he has history of kidney cancer. Records
   at [**Hospital 714**] [**Hospital **] hospital
   .
   # FEN: clear liquids, consider advancing diet today, replete lytes prn
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2187-2-21**] 12:06 PM
   Multi Lumen - [**2187-2-21**] 01:25 PM
   Arterial Line - [**2187-2-22**] 01:50 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2187-02-23 07:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - off pressors since noon [**2-22**]
   Allergies:
   Vancomycin
   Rash;
   Cephalosporins
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2187-2-23**] 06:36 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-2-23**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.2
   Tcurrent: 34.7
C (94.5
   HR: 97 (96 - 111) bpm
   BP: 98/56(71) {93/51(67) - 128/74(93)} mmHg
   RR: 15 (11 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.7 kg (admission): 80 kg
    CVP: 6 (3 - 14)mmHg
   Total In:
                                                                  3,777 mL
                                                                    276 mL
   PO:
                                                                    290 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  3,487 mL
                                                                    176 mL
   Blood products:
   Total out:
                                                                  2,040 mL
                                                                    920 mL
   Urine:
                                                                  2,040 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,737 mL
                                                                   -645 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///12/
   Physical Examination
   GEN: Middle-aged man in NAD, awake, alert, oriented x3
   HEENT: EOMI, PERRL, sclera anicteric
   NECK: Supple, no jugular venous distention
   CV: regular rate and rhythm, S1, S2. No m/r/g
   CHEST: Resp were unlabored, no accessory muscle use. CTAB anteriorly,
   no wheezing
   ABD: slightly distended but soft, NT, bowel sounds positive
   EXT: 3+ peripheral edema
   Groin: scrotal swelling and erythema extending to inner thighs
   bilaterally
   SKIN: erythematous rash with areas of desquamation over torso and legs
   Labs / Radiology
   284 K/uL
   7.6 g/dL
   47 mg/dL
   1.7 mg/dL
   12 mEq/L
   3.8 mEq/L
   26 mg/dL
   124 mEq/L
   147 mEq/L
   24.0 %
   16.3 K/uL
        [image002.jpg]
                             [**2187-2-20**]  07:59 PM
                             [**2187-2-21**]  12:19 AM
                             [**2187-2-21**]  03:22 AM
                             [**2187-2-21**]  03:56 PM
                             [**2187-2-21**]  03:59 PM
                             [**2187-2-22**]  03:02 AM
                             [**2187-2-23**]  02:15 AM
   WBC
   36.2
   36.1
   31.2
   25.0
   16.3
   Hct
   24.6
   20.2
   25.7
   23.8
   24.0
   Plt
   [**Telephone/Fax (3) 5652**]56
   284
   Cr
   1.6
   1.4
   1.4
   1.3
   1.4
   1.7
   Glucose
   121
   263
   113
   93
   76
   47
   Other labs: PT / PTT / INR:15.0/42.0/1.3, ALT / AST:19/19, Alk Phos / T
   Bili:356/1.7, Amylase / Lipase:170/64, Differential-Neuts:92.3 %,
   Band:0.0 %, Lymph:5.5 %, Mono:1.9 %, Eos:0.1 %, Lactic Acid:0.9 mmol/L,
   Albumin:1.9 g/dL, LDH:235 IU/L, Ca++:8.0 mg/dL, Mg++:2.4 mg/dL, PO4:5.2
   mg/dL
   Imaging: no new imaging
   Microbiology: [**2-20**], [**2-21**], [**2-22**] Blood Cx: NGTD
   [**2-20**] Stool CX: Cdiff positive
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 TACHYCARDIA, OTHER
   Mr. [**Known lastname 5613**] is a 67 y.o. male w/pmh alcoholism admitted [**1-23**] with
   septic shock [**12-18**] salmonella sepsis and pancolitis with course
   complicated by ARF, hepatitis, pancreatitis and desquamating drug rash
   likely [**12-18**] cephalosporisn, transferred to the ICU for tachycardia,
   leukocytosis and fever likely [**12-18**] acute clostridium difficile sepsis.
   .
   #C. diff sepsis: Admitted to MICU with fever, leukocytosis and
   tachycardia, requiring pressors x24 hours.  Stool cx from [**2-20**] confirmed
   C. diff.  Abdominal exam relatively benign with no rebound or
   guarding.  Blood and urine cx NGTD.  Improving, off of pressors for
   about 24 hours.
   - cont PO vanco, IV flagyl
   - Appreciate surgery consult: advancing diet to full liquids
   -continue to replete with IVF, has increased fluid losses [**12-18**] DI
   - continue RIJ CVL placed [**2-21**], given poor peripheral access
   -d/c Aline (of note significant difference between cuff and Aline
   pressures)
   -f/u ID reccs
   .
   # Acute Renal Failure: Creatinine peaked at 5.2 during his admission
   likely [**12-18**] sepsis and hypotension and rhabdomyolysis on admission, has
   been slowly trending down, at 1.5 on transfer to ICU.  Slightly
   increased this morning likely [**12-18**] volume depletion given high urine and
   stool output.
   -monitor Cr
   - IVF boluses as needed
   -full liquids
   .
   #Non-Gap Metabolic Acidosis: likely [**12-18**] combination of volume
   resuscitation with NS as well as renal dysfunction.
   -IVF with d5/sodium bicarb
   .
   # Diabetes Insipidus: Per patient has a history of having to "drink
   lots of water" which he was told was due to 13 years of taking
   lithium.  Urine osm of 204 in the setting of severe volume depletion
   supportive of this.
   - Volume resuscitation with sodium bicarb
   - monitor Na closely as will be prone to hypernatremia
   - allow pt to drink water in order to replace free water losses
   .
   # Hepatitis, pancreatitis:  Thought likely [**12-18**] drug reaction, ? zosyn
   vs depakote.  Has been followed by liver service previously, with
   cholestatic picture.  LFT's and PFT's continue to slowly trend down,
   with no evidence that worsening of liver function is contributing to
   his current picture.
   - monitor LFT's, amylase, lipase
   - avoid zosyn/depakote
   .
   # Salmonella Sepsis, pancolitis on admission: Has finished course of
   treatment for salmonella sepis with resolving pancolitis per serial
   abdominal CT's.
   .
   # AGEP (acute generalized exanthematous pustulosis -> diffuse
   desquamating drug rash thought most likely [**12-18**] cephalosporins.
   Vancomycin also possible but less likely.  Resolving since these abx
   d/c'd [**2-4**].
   - eucerin cream to protect skin
   - Spoke with dermatology: AGEP likely caused by B lactam.  Ok to cont
   PO vanco as is poorly absorbed.  Cont to watch closely
   - Stop PO vanco if rash returns
   .
   # Anemia: Has been stable in the low 20's since admission, likely [**12-18**]
   prolonged illness.  No evidence of acute blood loss.  Required
   transfusion 2 units on transfer to ICU in setting of significant volume
   resuscitation.  Has been stable since.
   - Monitor HCT  daily
   - active type and screen
   - xfuse for Hct<21
   .
   #Hx seizure disoirder: continue keppra
   .
   #Renal mass: Patient reports he has history of kidney cancer. Records
   at [**Hospital 714**] [**Hospital **] hospital
   .
   # FEN: full  liquids, consider advancing diet today, replete lytes prn
   ICU Care
   Nutrition: full liquids for now
   Glycemic Control:  not requiring coverage
   Lines:
   22 Gauge - [**2187-2-21**] 12:06 PM
   Multi Lumen - [**2187-2-21**] 01:25 PM
   Arterial Line - [**2187-2-22**] 01:50 AM  -
 d/c aline today
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed
   Code status: Full code
   Disposition: c/o to the floor